US06762321B2
2.14 g (11.97 mmol) of crude 2-(3-methoxy-4-benzyloxyphenyl)ethylamine, 1.45 g (14.36 mmol) of triethylamine and 20 ml of tetrahydrofuran were mixed and cooled to about 0° C. and then 2.26 g (11.97 mmol) of (4-chlorophenyl)acetyl chloride was added dropwise thereto. The mixture was stirred at 0° C. for 30 minutes and further at room temperature for 2 hours. Water was added to the reaction mixture, which was followed by extracted with ethyl acetate, washed with 5% hydrochloric acid and saturated brine subsequently, dried over anhydrous magnesium sulfate and the solvent was distilled off under reduced pressure. The residue was washed with hexane and dried to give 3.70 g of N-[2-(4-benzyloxy-3-methoxyphenyl)ethyl]-2-(4-chlorophenyl)acetamide.

reactant | 2-(3-methoxy-4-benzyloxyphenyl)ethylamine | 11.97 mmol, 2.14 g | COC=1C=C(C=CC1OCC1=CC=CC=C1)CCN | C16H19NO2
reactant | triethylamine | 14.36 mmol, 1.45 g | C(C)N(CC)CC | C6H15N
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
reactant | (4-chlorophenyl)acetyl chloride | 11.97 mmol, 2.26 g | ClC1=CC=C(C=C1)CC(=O)Cl | C8H6Cl2O
solvent | Water | O | H2O
product | N-[2-(4-benzyloxy-3-methoxyphenyl)ethyl]-2-(4-chlorophenyl)acetamide | 3.70 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)CCNC(CC1=CC=C(C=C1)Cl)=O)OC | C24H24ClNO3
